US05674906
Synthesis of (Z)-1-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-ethene-Fmoc-glycineamide
Two grams (6.3 mmols) of (Z)-1-(3-amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-ethene, 2.3 g of Fmoc-Gly and 11 g (25 mmols) of a BOP reagent were dissolved in 40 ml of N,N-dimethylformamide, and the mixture was heated at 60° C. for 2 hours. After the reaction mixture was cooled, a saturated aqueous solution of sodium hydrogencarbonate was added thereto. The resulting mixture was extracted three times with dichloromethane. The extract was dried over anhydrous sodium sulfate, and concentrated to dryness under reduced pressure. The product was purified through silica-gel column chromatography (mixture of ethyl acetate and hexane at a ratio by volume of 1:2) to give 1.63 of the final product in a yield of 43.5%.

reactant | (Z)-1-(3-amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-ethene | 6.3 mmols, Two grams | NC=1C=C(C=CC1OC)\C=C/C1=CC(=C(C(=C1)OC)OC)OC | C18H21NO4
reactant | Fmoc-Gly | 2.3 g | N(CC(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C17H15NO4
reactant | BOP reagent | 25 mmols, 11 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | (Z)-1-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-ethene Fmoc-glycineamide | yield of 43.5% | NC=1C=C(C=CC1OC)\C=C/C1=CC(=C(C(=C1)OC)OC)OC.C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NCC(=O)N | InChI=1S/C18H21NO4.C17H16N2O3/c1-20-15-8-7-12(9-14(15)19)5-6-13-10-16(21-2)18(23-4)17(11-13)22-3;18-16(20)9-19-17(21)22-10-15-13-7-3-1-5-11(13)12-6-2-4-8-14(12)15/h5-11H,19H2,1-4H3;1-8,15H,9-10H2,(H2,18,20)(H,19,21)/b6-5-;
